US05158970
Preparation of N-(4-p-methoxyphenylbutyryl)-L-prolinal diethyl acetal
L-prolinal diethyl acetal hydrochloride is dissolved, together with 4-(p-methoxyphenyl)butyryl chloride (686 mg, 4.02 mmol) prepared in the same manner as described in Example 5, in methylene chloride (12 ml) and triethylamine (1.7 ml, 12.2 mmol) is added dropwise thereto under ice-cooling and agitation. After the dropwise addition, stirring is further continued for 30 minutes under cooling, and then for one hour at room temperature. Ether (40 ml) is added to the reaction mixture, and the ethereal layer is separated, washed with a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of edible salt, dried over sodium sulfate and filtered. The filtrate is concentrated to dryness under reduced pressure. The residue is purified by column chromatography on silica gel (n-hexane-ethyl acetate, 2:1) to give 805 mg (58%) of the title compound as a pale yellow syrup.

reactant | L-prolinal diethyl acetal hydrochloride | Cl.C(C)OC([C@H]1NCCC1)OCC
reactant | 4-(p-methoxyphenyl)butyryl chloride | 4.02 mmol, 686 mg | COC1=CC=C(C=C1)CCCC(=O)Cl | C11H13ClO2
reactant | triethylamine | 12.2 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | Ether | 40 ml | CCOCC | C4H10O
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | N-(4-p-methoxyphenylbutyryl)-L-prolinal diethyl acetal | 805 mg, 58% | C(C)OC([C@H]1N(CCC1)C(CCCC1=CC=C(C=C1)OC)=O)OCC | C20H31NO4
